US05118811
A solution of 4-oxo-4-(2-oxo-1-pyrrolidinyl)butyric acid (5.02 g), L-prolinol (2.74 g) and HOBt (3.72 g) in DMF (50 ml) was cooled to -25° C. and DCC (5.64 g) was added thereto. After 3 hours' stirring at a temperature of -25°-0° C., the mixture was stirred at room temperature for 15 hours. The precipitated dicyclohexylurea was filtered off, and the filtrate was concentrated. The residue was dissolved in chloroform and washed with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saturated brine in sequence. The organic layer was dried over magnesium sulfate, followed by concentration. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 3.41 g of N-[(4-oxo-4-(2-oxo-1-pyrrolidinyl)butanoyl]-L-prolinol.

reactant | 4-oxo-4-(2-oxo-1-pyrrolidinyl)butyric acid | 5.02 g | O=C(CCC(=O)O)N1C(CCC1)=O | C8H11NO4
reactant | L-prolinol | 2.74 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | HOBt | 3.72 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 5.64 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (4-oxo-4-(2-oxo-1-pyrrolidinyl)butanoyl]-L-prolinol | O=C(CCC(=O)N1[C@H](CO)CCC1)N1C(CCC1)=O | C13H20N2O4
